US07544693B2
Ethyl glycolate (7.00 g, 67.3 mmol) was added slowly into a suspension of sodium hydride (2.80 g of 60% dispersion in mineral oil, 70.0 mmol) in 60 mL of 1,2-dimethoxyethane (DME) at 0° C., and the mixture was then stirred for another 30 min. A solution of ethyl 2-chloronicotinate (4.60 g, 24.8 mmol) in 14 mL of DME was added into the reaction mixture slowly at room temperature. Then the mixture was heated at 70° C. overnight. After evaporation of the solvent, the residue was dissolved in 90 mL of water, washed three times with hexane, acidified with acetic acid, and extracted three times with chloroform. The combined chloroform layers were dried (MgSO4), and evaporated to give a yellow residue. The residue was crystallized from 20 mL of ether to give ethyl 3-hydroxyfuro[2,3-b]pyridine-2-carboxylate as a pale-yellow solid (4.30 g).

reactant | Ethyl glycolate | 67.3 mmol, 7.00 g | C(CO)(=O)OCC | C4H8O3
reactant | sodium hydride | 70.0 mmol, 2.80 g | [H-].[Na+]
reactant | ethyl 2-chloronicotinate | 24.8 mmol, 4.60 g | ClC1=C(C(=O)OCC)C=CC=N1 | C8H8ClNO2
solvent | 1,2-dimethoxyethane | 60 mL | COCCOC | C4H10O2
solvent | DME | 14 mL | COCCOC | C4H10O2
product | ethyl 3-hydroxyfuro[2,3-b]pyridine-2-carboxylate | 4.30 g | OC1=C(OC2=NC=CC=C21)C(=O)OCC | C10H9NO4
